US07625888B2
Step B: 8-Hydrazino-2-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrazine
A solution of 400 mg (1.15 mmol) of 5-bromo-2-(trifluoromethyl) [1,2,4]triazolo[1,5-a]pyrazine hydrobromide in 2.5 mL of dry ethanol was treated dropwise with 0.799 mL (11.5 mmol) of hydrazine hydrate, and stirring was continued at ambient temperature overnight. The reaction mixture was concentrated to dryness, and the residue was extracted with dichloromethane and then with tetrahydrofuran. The organic extracts were washed with saturated sodium bicarbonate aqueous solution, filtered, and concentrated. Purification of the residue by preparative HPLC (C18 reverse phase column, 10-60% acetonitrile in water containing 0.05% trifluoroacetic acid) afforded the title compound as a yellow solid. LC-MS 219 (M+1).

reactant | 5-bromo-2-(trifluoromethyl) [1,2,4]triazolo[1,5-a]pyrazine hydrobromide | 1.15 mmol, 400 mg | Br.BrC1=CN=CC=2N1N=C(N2)C(F)(F)F
reactant | hydrazine hydrate | 11.5 mmol, 0.799 mL | O.NN
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
product | 8-Hydrazino-2-(trifluoromethyl)[1,2,4]triazolo[1,5-a]pyrazine | N(N)C=1C=2N(C=CN1)N=C(N2)C(F)(F)F | C6H5F3N6
